US07846959B2
A solution of 3-(3,4-diaminophenyl)-2-(3-ethynyl-2-fluorophenyl)-4,7-difluoro-3-hydroxy-2,3-dihydro-1H-isoindol-1-one (1.15 g, 2.80 mmol) and 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea (0.58 g, 2.80 mmol) was heated to 80° C. for 30 minutes in glacial acetic acid (15.0 mL). The reaction mixture was cooled to room temperature and it was pored into ice water. The pH was adjusted to 8 by the addition of 2M aqueous sodium hydroxide. The precipitated product was extracted with ethyl acetate (350 mL) and the organic layer was washed with brine and dried over anhydrous sodium sulfate. Filtration and evaporation resulted in a crude product. It was purified by reverse phase preparative HPLC (CH3CN/25 mM aqueous ammonium acetate). The fractions were collected, and the solvent was concentrated. The residue was partitioned with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, brine and dried over anhydrous sodium sulfate. Filtration and concentration resulted in an amorphous residue, which was freeze-dried from a mixture of acetonitrile-water (35.0 mL) to give methyl {5-[2-(3-ethynyl-2-fluorophenyl)-4,7-difluoro-1-hydroxy-3-oxo-2,3-dihydro-1H-isoindol-1-yl]-1H-benzimidazol-2-yl}carbamate (1.15 g, 83% yield). 1H NMR (400 MHz, CD3OD): 7.79 (s, 1H), 7.50 (d, J=8.4 Hz, 1H), 7.43-7.36 (m, 4H), 7.31 (t, J=7.2 Hz, 1H), 7.07 (t, J=7.6 Hz, 1H), 3.92 (s, 3H), 3.78 (s, 1H); MS (EI) for C25H15F3N4O4: 493 (MH+).

reactant | 3-(3,4-diaminophenyl)-2-(3-ethynyl-2-fluorophenyl)-4,7-difluoro-3-hydroxy-2,3-dihydro-1H-isoindol-1-one | 2.80 mmol, 1.15 g | NC=1C=C(C=CC1N)C1(N(C(C2=C(C=CC(=C12)F)F)=O)C1=C(C(=CC=C1)C#C)F)O | C22H14F3N3O2
reactant | 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea | 2.80 mmol, 0.58 g | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | acetic acid | 15.0 mL | C(C)(=O)O | C2H4O2
product | methyl {5-[2-(3-ethynyl-2-fluorophenyl)-4,7-difluoro-1-hydroxy-3-oxo-2,3-dihydro-1H-isoindol-1-yl]-1H-benzimidazol-2-yl}carbamate | 1.15 g, 83% yield | C(#C)C=1C(=C(C=CC1)N1C(C2=C(C=CC(=C2C1=O)F)F)(O)C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)F | C25H15F3N4O4
